US05202055
(i) Preparation of 4-{trans-4'-(p-toluenesulfonyloxymethyl)cyclohexyl}benzonitrile
Into a 1 l capacity three-necked flask were added 4-{trans-4'-(hydroxymethyl)cyclohexyl}benzonitrile (75.6 g, 0.35 mol) and pyridine (150 ml), followed by cooling these down to 0° C., dropwise adding a pyridine solution (150 ml) of p-toluenesulfonyl chloride (70.3 g, 0.37 mol) over one hour, agitating these at room temperature for 2 hours, allowing them to stand overnight, adding water (500 ml), extracting with toluene, three times washing with water (300 ml), drying over magnesium sulfate, removing magnesium sulfate, concentrating the residue, passing it through a silica gel column using a chloroform solution, distilling off chloroform, recrystallizing from a mixed solvent of n-heptane with ethyl acetate and drying to obtain white crystals (103.5 g). The NMR spectra of this product accorded with those of the captioned compound and its M.P. was 108.1°-110.5° C.

reactant | 4-{trans-4'-(hydroxymethyl)cyclohexyl}benzonitrile | 0.35 mol, 75.6 g | OC[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C14H17NO
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
reactant | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
reactant | p-toluenesulfonyl chloride | 0.37 mol, 70.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | water | 500 ml | O | H2O
product | 4-{trans-4'-(p-toluenesulfonyloxymethyl)cyclohexyl}benzonitrile | 103.5 g | C1(=CC=C(C=C1)S(=O)(=O)OC[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1)C | C21H23NO3S
